US07612114B2
6-{2-{[4-(2-Ethylaminoethoxy)benzyl]isopropylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[(4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (31 mg) and 2-chloro-N-ethylacetamide (22 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (2.2 mg) was obtained.

reactant | pivalic acid 6-{2-[(4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 31 mg | OC1=CC=C(C(=O)N(C2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C(C)C)C=C1 | C32H37NO5
reactant | 2-chloro-N-ethylacetamide | 22 mg | ClCC(=O)NCC | C4H8ClNO
product | 6-{2-{[4-(2-Ethylaminoethoxy)benzyl]isopropylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 2.2 mg | C(C)NCCOC1=CC=C(CN(C2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)O)C(C)C)C=C1 | C31H40N2O3
